US07074865B2
C) Lithium 1-ethyl-2-phenyl-1,2-azaborolide
1,5-Dihydro-1-ethyl-2-phenyl-1,2-azaborole (5.0 g, 29.2 mmol) was dissolved in 15 mL of ether at −78° C. To this was added a solution of lithiumdiisopropylamide (3.13 g, 29.2 mmol) in 15 mL of ether. The mixture was stirred at −78° C. for 2 hours and at 25° C. for 10 hours. After removal of the solvent the residue was washed with 3×20 mL of pentane. The residue was dried under vacuum to give the product as a light yellow powder (3.9 g, 77 percent).

reactant | 1,5-Dihydro-1-ethyl-2-phenyl-1,2-azaborole | 29.2 mmol, 5.0 g | C(C)N1B(C=CC1)C1=CC=CC=C1 | C11H14BN
reactant | lithiumdiisopropylamide | 29.2 mmol, 3.13 g | C(C)(C)[N-]C(C)C.[Li+]
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | Lithium 1-ethyl-2-phenyl-1,2-azaborolide | 3.9 g, 77 percent | C(C)N1B([CH-]C=C1)C1=CC=CC=C1.[Li+] | InChI=1S/C11H13BN.Li/c1-2-13-10-6-9-12(13)11-7-4-3-5-8-11;/h3-10H,2H2,1H3;/q-1;+1
